US06294538B1
To a suspension of sodium hydride (60% dispersion in oil) (269 g, 16.7 mol) in isopropyl ether (12 L) was slowly added ethyl acetate (1280 g, 14.2 mol) at such a rate as to maintain an internal temperature of 45° C. Ethyl formate (2232 g, 30.13 mol) then added dropwise at 42° C. and stirred at ambient temperature for 18 h. The mixture was filtered and washed with ethyl ether (2×300 mL), with hexanes (500 mL) and the solid was dried to give sodium 2-ethoxycarbonyl ethenolate as a white solid (1930 g, 99%); 1H NMR (DMSO-d6, 300 MHz) δ1.03 (t.3H), 3.86 (q, 2H), 4.08(d, 1H), 8.03 (d, 1H).

reactant | sodium hydride | 16.7 mol, 269 g | [H-].[Na+]
reactant | ethyl acetate | 14.2 mol, 1280 g | C(C)(=O)OCC | C4H8O2
reactant | Ethyl formate | 30.13 mol, 2232 g | C(=O)OCC | C3H6O2
solvent | isopropyl ether | 12 L | C(C)(C)OC(C)C | C6H14O
product | sodium 2-ethoxycarbonyl ethenolate | 1930 g, 99% | C(C)OC(=O)C=C[O-].[Na+] | InChI=1S/C5H8O3.Na/c1-2-8-5(7)3-4-6;/h3-4,6H,2H2,1H3;/q;+1/p-1
